US07648987B2
c) C-(3-Benzyloxy-phenyl)-C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride
2-[(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-isoindole-1,3-dione (2.76 g, 6.05 mmol) was dissolved in EtOH (12 mL) and CH2Cl2 (4 mL) charged with N2H4 (0.57 mL, 18.16 mmol) and allowed to react for 16 h at rt. The white precipitate was filtered and washed with EtOAc. The filtrate and organic washings were concentrated in vacuo, and purified via HPFC using a 100 g Jones silica gel column (50% EtOAc: Hex to 5% MeOH: CH2Cl2) to yield the desired product as a reddish oil; 1H NMR (CDCl3, 400 MHz) δ 5.04 (s, 2H), 5.52 (s, 1H), 6.85-6.98 (m, 2H), 7.21-7.26 (m, 2H), 7.30-7.41 (m, 5H), 8.26 (d, 1H, J=2.5 Hz), 8.52 (d, 1H, J=2.5 Hz); MS (ES) 326.25 (M+1), 328.23 (M+3), 329.24 (M+4).

reactant | 2-[(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-isoindole-1,3-dione | 6.05 mmol, 2.76 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CN=C1Cl | C26H18ClN3O3
reactant | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 12 mL | CCO | C2H6O
product | C-(3-Benzyloxy-phenyl)-C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C1=NC=CN=C1Cl)N | InChI=1S/C18H16ClN3O.ClH/c19-18-17(21-9-10-22-18)16(20)14-7-4-8-15(11-14)23-12-13-5-2-1-3-6-13;/h1-11,16H,12,20H2;1H
